US07176242B2
N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N3-methyl-5-(1,3-thiazol-2-yl)-N3-propylisophthalamide
Methyl 3-{[methyl(propyl)amino]carbonyl}-5-(1,3-thiazol-2-yl)benzoate (390 mg, 1.22 mmol) is dissolved in 1:1:1 tetrahydrofuran/methanol/water (9 mL), and lithium hydroxide monohydrate is added (103 mg, 2.4 mmol), and the reaction stirred 2 h. The solution is concentrated under reduced pressure. The residue is redissolved in DMF (5 mL), and diisopropylethylamine (355 μL, 2.0 mmol), HATU (230 mg, 0.61 mmol), (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method of EXAMPLE SP-272 (206 mg, 0.51 mmol) are added. The reaction stirred at room temperature 16 h. The reaction mixture is diluted with ethyl acetate, washed with water, saturated sodium bicarbonate, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9% methanol/methylene chloride) provides the title compound. ESI MS m/z 621.3 [M+H]+.

reactant | Methyl 3-{[methyl(propyl)amino]carbonyl}-5-(1,3-thiazol-2-yl)benzoate | 1.22 mmol, 390 mg | CN(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1SC=CN1)CCC | C16H18N2O3S
reactant | diisopropylethylamine | 2.0 mmol, 355 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.61 mmol, 230 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | tetrahydrofuran methanol water | 9 mL | O1CCCC1.CO.O
solvent | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N3-methyl-5-(1,3-thiazol-2-yl)-N3-propylisophthalamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(C(=O)N(CCC)C)=CC(=C2)C=2SC=CN2)=O)C=C(C1)F | C34H38F2N4O3S
